US05231190
The Jones' reagent (2.2 L) was added dropwise to a solution of 2,2,8,8-tetramethylnona-3,6-diyn-5-ol (500 g, 2.6 mol, prepared in Part A above) in acetone (1.5 L), and the rapid, exothermic reaction which followed was monitored by thin layer chromatography for disappearance of starting material. When this had been observed, the two-phase mixture was poured with agitation into ice/water, and the resultant precipitate was filtered and washed with water until a colorless filtrate was obtained. Air drying afforded 2,2,8,8-tetramethylnona-3,6-diyn-5-one (471 g, 94% yield) as pale yellow crystals which melted at 65°-66° C. The structure of this compound was confirmed by mass spectroscopy and by 1H and 13C NMR spectroscopy.

reactant | Jones' reagent | 2.2 L | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 2,2,8,8-tetramethylnona-3,6-diyn-5-ol | CC(C)(C#CC(C#CC(C)(C)C)O)C | C13H20O
solvent | acetone | 1.5 L | CC(=O)C | C3H6O
product | 2,2,8,8-tetramethylnona-3,6-diyn-5-one | 471 g, 94% yield | CC(C)(C#CC(C#CC(C)(C)C)=O)C | C13H18O
